US06469167B1
A suspension of 5-[4-[(carboxy)methoxy]benzyl]thiazolidine-2,4-dione obtained by following a procedure described in any of Examples 25-28 (100 g., 0.36 M), N-methyl anthranilamide (58.7 g, 0.39 M), xylene (100 ml) and p-toluenesulfonic acid (200 mg) was taken in a round bottom flask fitted with a mechanical stirrer, oil bath and Dean-Stark condenser. The reaction mixture was heated to reflux (Internal temperature 150-155° C., oil bath temperature 170-180° C.) for a period of 12-15 h while monitoring the reaction by TLC. After completion of the reaction, reaction mass was cooled to 80° C. and methanol (700 ml) was added slowly through a dropping funnel. The reaction mass was allowed to attain room temperature while stirring and the solid thus obtained was filtered and washed with methanol (150 ml) and dried at 100-120° C. for 1 h to afford 5-[4-[[3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione as a white solid (95 g, Y=68%, P=98%).

reactant | 5-[4-[(carboxy)methoxy]benzyl]thiazolidine-2,4-dione | C(=O)(O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C12H11NO5S
reactant | N-methyl anthranilamide | 0.39 M, 58.7 g | CNC(C=1C(N)=CC=CC1)=O | C8H10N2O
reactant | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 700 ml | CO | CH4O
product | 5-[4-[[3-methyl-4-oxo-3,4-dihydroquinazolin-2-yl]methoxy]benzyl]thiazolidine-2,4-dione | CN1C(=NC2=CC=CC=C2C1=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C20H17N3O4S
